US07439393B2
i) N-[3-({2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-3-nitrobenzamide
A solution of (5R)-3-{6-[2-{[(3-aminophenyl)methyl]oxy}ethoxy]hexyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (2.20 g) in pyridine (20 ml) under nitrogen was treated with 3-nitrobenzoyl chloride (819 mg) and the mixture was stirred at 20° for 2.5 h. Sat. sodium bicarbonate solution (100 ml) was added and the mixture was extracted with dichloromethane (2×50 ml). The combined extracts were dried (Na2SO4) and the solvent evaporated in vacuo. The residue was purified by flash chromatography on silica gel. Elution with EtOAc-PE (2:1) gave the title compound (2.11 g). LCMS RT=3.71 min, ES+ve 648 (MH)+.

reactant | (5R)-3-{6-[2-{[(3-aminophenyl)methyl]oxy}ethoxy]hexyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 2.20 g | NC=1C=C(C=CC1)COCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C28H38N2O6
reactant | 3-nitrobenzoyl chloride | 819 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-({2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)phenyl]-3-nitrobenzamide | 2.11 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC=2C=C(C=CC2)NC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C | C35H41N3O9
